US07465731B2
To a solution of tert-butyl [(3R)-1-(2-ethylbutyl)-3-pyrrolidinyl](5-{(1E)-3-oxo-3-[(tetrahydro-2H-pyran-2-yloxy)amino]-1-propen-1-yl}-2-pyridinyl)carbamate (128 mg) in methanol (2.5 mL) was added hydrogen chloride in methanol (0.248 mL). After stirring at room temperature for 1 hour, the reaction mixture was evaporated in vacuo. ii) To a mixture of above product and dioxane (2.5 mL) was added 4N hydrogen chloride in dioxane (1.02 mL). After stirring at room temperature for 2 hours, the reaction mixture was evaporated in vacuo and triturated with ethyl acetate to give (2E)-3-(6-{[(3R)-1-(2-ethylbutyl)-3-pyrrolidinyl]amino}-3-pyridinyl)-N-hydroxyacrylamide dihydrochloride (92.0 mg). 1H-NMR (300 MHz, DMSO-d6) δ 0.85 (6H, t, J=7 Hz), 1.28-1.52 (4H, m), 1.58-1.72 (1H, m), 2.02-2.15 (1H, m), 2.32-2.67 (2H, m), 3.06-4.78 (6H, m), 6.37 (1H, d, J=16 Hz), 6.91-7.08 (1H, m), 7.43 (1H, d, J=16 Hz), 7.94-8.02 (1H, m), 8.21 (1H, brs), 10.4 (1H, brs). MS (ES+) m/z 333 (M+1).

reactant | tert-butyl [(3R)-1-(2-ethylbutyl)-3-pyrrolidinyl](5-{(1E)-3-oxo-3-[(tetrahydro-2H-pyran-2-yloxy)amino]-1-propen-1-yl}-2-pyridinyl)carbamate | 128 mg | C(C)C(CN1C[C@@H](CC1)N(C(OC(C)(C)C)=O)C1=NC=C(C=C1)\C=C\C(NOC1OCCCC1)=O)CC | C28H44N4O5
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2.5 mL | CO | CH4O
solvent | methanol | 0.248 mL | CO | CH4O
product | (2E)-3-(6-{[(3R)-1-(2-ethylbutyl)-3-pyrrolidinyl]amino}-3-pyridinyl)-N-hydroxyacrylamide dihydrochloride | 92.0 mg | Cl.Cl.C(C)C(CN1C[C@@H](CC1)NC1=CC=C(C=N1)/C=C/C(=O)NO)CC | InChI=1S/C18H28N4O2.2ClH/c1-3-14(4-2)12-22-10-9-16(13-22)20-17-7-5-15(11-19-17)6-8-18(23)21-24;;/h5-8,11,14,16,24H,3-4,9-10,12-13H2,1-2H3,(H,19,20)(H,21,23);2*1H/b8-6+;;/t16-;;/m1../s1
